*************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
**************************************

.MODEL switch1 SW Ron=0.1 Roff=1Meg Vt=3 Vh=0.5

.MODEL 1N4002  D
+IS=1.22478e-08 RS=0.0414786 N=1.83369 EG=0.6
+XTI=0.05 BV=100 IBV=5e-08 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=1e-09
+KF=0 AF=1


*******************************************
* 1N4148 
* NXP Semiconductors
*High-speed diodes
*
*VRRM = 100V
*IFRM = 450 mA 
*trr  = 4ns
*
*******************************************
.MODEL 1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 



.MODEL BC337 NPN
+    IS = 4.13E-14 
+    NF = 0.9822 
+    ISE = 3.534E-15 
+    NE = 1.35 
+    BF = 292.4 
+    IKF = 0.9 
+    VAF = 145.7 
+    NR = 0.982 
+    ISC = 1.957E-13 
+    NC = 1.3 
+    BR = 23.68 
+    IKR = 0.1 
+    VAR = 20 
+    RB = 60 
+    IRB = 0.0002 
+    RBM = 8 
+    RE = 0.1129 
+    RC = 0.25 
+    XTB = 0 
+    EG = 1.11 
+    XTI = 3 
+    CJE = 3.799E-11 
+    VJE = 0.6752 
+    MJE = 0.3488 
+    TF = 5.4E-10 
+    XTF = 4 
+    VTF = 4.448 
+    ITF = 0.665 
+    PTF = 90 
+    CJC = 1.355E-11 
+    VJC = 0.3523 
+    MJC = 0.3831 
+    XCJC = 0.455 
+    TR = 3E-08 
+    CJS = 0 
+    VJS = 0.75 
+    MJS = 0.333 
+    FC = 0.643

 
.MODEL BC547 NPN
+IS=7.443e-11 BF=1343.59 NF=1.42606 VAF=80.4901
+IKF=0.427163 ISE=2.4623e-10 NE=2.73946 BR=62.79
+NR=1.5 VAR=1.0092 IKR=4.27163 ISC=2.4623e-10
+NC=1.9119 RB=0.1 IRB=0.1 RBM=0.1
+RE=0.579065 RC=3.01102 XTB=0.1 XTI=2.25359
+EG=1.05 CJE=7.34106e-12 VJE=0.586136 MJE=0.33309
+TF=5.7202e-10 XTF=4.45797 VTF=26.03 ITF=0.487193
+CJC=4.04665e-12 VJC=0.95 MJC=0.343664 XCJC=0.799994
+FC=0.8 CJS=0 VJS=0.75 MJS=0.5
+TR=1e-07 PTF=0 KF=0 AF=1

.MODEL BD433   NPN 
+ Is=1.129p Xti=3 Eg=1.11 Vaf=100 Bf=161 Ise=31.17p Ne=1.557
+   Ikf=1.948 Xtb=2 Br=1 Isc=23.5p Nc=1.489 Ikr=31.34m
+   Rc=.1682 Cjc=251.5p Mjc=.5045 Vjc=.75 Fc=.5 Cje=286.3p
+   Mje=.4961 Vje=.75 Tr=810n Tf=23.64n Itf=10.92 Xtf=.3795 Vtf=10
+   Rb=.1

* BZT52C11LP
*SRC=BZT52C11LP;DI_BZT52C11LP;Diodes;Zener 10V-50V; 11.0V  0.250W   Diodes Inc. QFN Zener
*SYM=HZEN
.SUBCKT BZT52C11  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 8.77
.MODEL DF D ( IS=9.36p RS=30.8 N=1.10
+ CJO=33.9p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=1.87f RS=4.60 N=2.97 )
.ENDS

.SUBCKT BC517 1 2 3
* TERMINALS: C B E
Q1 1 2 4 QPWR .1
Q2 1 4 3 QPWR
.MODEL QPWR NPN (IS=1.2P NF=1 BF=245 VAF=98.6 IKF=0.36 ISE=26.8P NE=2
+ BR=4 NR=1 VAR=40 IKR=0.54 RE=1.5 RB=6 RC=0.6 CJE=147P XTB=1.5
+ VJE=0.74 MJE=0.45 CJC=9.48P VJC=1.1 MJC=0.24 TF=60.3N TR=2.61U)
.ENDS 

.MODEL SB130 D  
+IS=31.5u RS=49.2m BV=30.0 IBV=500u
+CJO=239p  M=0.333 N=1.70 TT=7.20n


* BEGIN SPICE MODEL LM324
* ON SEMICONDUCTOR NEXT GEN MODEL 9/27/2018
* MODEL FEATURES INCLUDE OUTPUT SWING, OUTPUT CURRENT
* THROUGH THE SUPPLY RAILS, CLASS B OUTPUT STAGE, OUTPUT
* SWING, OPEN LOOP GAIN AND PHASE WITH RL AND CL EFFECTS,
* POWER SUPPLY REJECTION WITH FREQUENCY EFFECTS, COMMON
* MODE REJECTION WITH FREQUENCY EFFECTS, INPUT VOLTAGE
* NOISE WITH 1/F, INPUT CURRENT NOISE, INPUT BIAS AND
* OFFSET CURRENT, INPUT COMMON MODE VOLTAGE RANGE, VOS
* WITH TEMPERATURE EFFECTS, AND QUIESCENT CURRENT WITH
* TEMPERATURE EFFECTS.
* MODEL TOTAL SUPPLY VOLTAGE RANGE IS 3 TO 36 V.
* MODEL TEMP RANGE IS -55 TO +125 DEG C.
* NOTE THAT MODEL IS FUNCTIONAL OVER THIS TEMP RANGE
* BUT NOT ALL PARAMETERS TRACK THOSE OF THE REAL PART.
* NOTE THAT LIKE THE REAL PART THERE IS NO AB BIAS
* IN THE OUTPUT STAGE WHICH UNDER SOME CIRCUMSTANCES
* CAUSES HIGH OUTPUT IMPEDANCE AND OR CROSSOVER DELAY
* WHICH CAN EFFECT THE PERFORMANCE IN SOME CIRCUITS.
* THE COMBINATION OF OUTPUT CURRENT SINK AND NO AB
* BIAS WHEN USED WITH A LARGE CLOAD CAN CAUSE SOME
* INTERESTING SMALL SIGNAL STEP OVERSHOOTS THAT ARE
* LARGER THAN NORMAL AND RAMP LINEARLY RATHER THAN
* BEING SHAPED LIKE A CLASSIC OVERSHOOT. THIS HAPPENS
* IDENTICALLY WITH THE REAL PART AND THE MODEL.
*
* PINOUT ORDER +IN -IN +V -V OUT
* PINOUT ORDER  1   2   3  4  5
.SUBCKT LM324 1 2 3 4 5
R44 4 6 4E4
I1 4 7 0.5E-6
Q1 4 8 9 QPI
Q2 4 2 10 QPA
Q3 9 9 11 QPI
Q4 10 10 11 QPI
Q5 12 13 4 QNQ
Q6 13 13 4 QNQ
Q7 4 12 14 QPQ
Q8 3 14 6 QNQ
Q9 15 6 4 QNQ
Q10 3 15 16 QNQ
Q11 3 16 17 QNQ
R67 17 16 4E4
R68 5 17 18
Q12 4 15 5 QPQ
Q13 15 17 5 QNQ
I2 18 3 120E-9
I3 19 3 60E-9
I4 20 3 1E-6
Q14 11 18 3 QPQ
Q15 14 19 3 QPQ
Q16 5 7 4 QNQ
Q17 15 20 3 QPQ
C15 21 22 4.8E-12
R69 12 21 3
R70 12 15 3E9
E2 23 8 3 0 -10E-6
V51 23 1 1.56E-3
I6 3 4 5E-6
R71 4 3 4.5E5
Q18 12 9 11 QPQ
Q19 13 10 11 QPQ
C17 12 13 8E-12
C18 6 15 1E-12
C21 3 24 100E-15
R78 11 24 3E5
C22 1 2 0.23E-12
C23 2 0 0.79E-12
C24 1 0 0.79E-12
E3 22 0 15 0 2
C25 5 0 50E-15
Q20 25 25 0 QNQ
G1 3 4 VT 0 3E-4
I7 0 25 1E-3
V53 25 26 0.25
R79 0 26 1E6
E4 VT 0 27 26 1
R80 0 VT 1E6
V54 27 0 0.55
R81 0 27 1E6
.MODEL QPQ PNP IKF=3E-3 RC=300 KF=4.8E-17 BR=1
.MODEL QPA PNP IKF=3E-3 RC=380 IS=1.01E-16 VAF=245 RE=5 RB=1700 BF=300 KF=4.8E-17 BR=1
.MODEL QPI PNP IKF=3E-3 RC=380 IS=1.01E-16 VAF=290 RE=5 RB=1700 BF=306 KF=4.8E-17 BR=1
.MODEL QNQ NPN IKF=5E-3 RC=25  KF=4.8E-17 BR=1
.ENDS
* END SPICE MODEL LM324



.SUBCKT TRIMPOT 1 T 2 PARAMS: VALUE=1K SET=0.5
RT 1 T {VALUE*(1-SET)+.001}
RB T 2 {VALUE*SET+.001}
.ENDS
     

.SUBCKT 2n7000 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Mar 31, 04
* MODEL FORMAT: PSpice
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=2.236 LAMBDA=0 KP=0.0932174
+CGSO=1.79115e-07 CGDO=1.0724e-11
RS 8 3 1.10523
D1 3 1 MD
.MODEL MD D IS=2.71011e-10 RS=0.0140826 N=1.5 BV=60
+IBV=1e-05 EG=1.16084 XTI=3.00131 TT=0
+CJO=3.41211e-11 VJ=4.67429 M=0.899864 FC=0.1
RDS 3 1 2.4e+11
RD 9 1 0.0001
RG 2 7 2.18034
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=7.93181e-11 VJ=0.643298 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.400165 RS=3.00002e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.58786e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.400165
.ENDS 2n7000

